US05547962
5-Amino-7-(cis-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
A mixture of 2.00 g of 5-amino-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-7-(cis-4-methyl-3-trifluoroacetylamino-1-pyrrolidinyl)-4-oxoquinoline-3-carboxylic acid, 1.40 g of potassium hydroxide and 14 ml of water was stirred at room temperature for 1 hour, and then neutralized with 10% aqueous hydrochloric acid to pH 8. The deposited crystals were collected by filtration and washed with water, isopropanol and diethyl ether to give 1.65 g of the desired compound as yellow crystals. The crystals were subsequently recrystallized from a mixture of methylene chloride and methanol and 1.32 g of yellow prisms, m.p. 213.5°-215° C. were obtained.

reactant | 5-amino-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-7-(cis-4-methyl-3-trifluoroacetylamino-1-pyrrolidinyl)-4-oxoquinoline-3-carboxylic acid | 2.00 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@H](C1)C)NC(C(F)(F)F)=O)C)C1CC1)C(=O)O)=O | C21H22F4N4O4
reactant | potassium hydroxide | 1.40 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 14 ml | O | H2O
product | 5-Amino-7-(cis-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 1.65 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@H](C1)C)N)C)C1CC1)C(=O)O)=O | C19H23FN4O3
